US08217031B2
6-(2-Aminoethyl)-4-(3,4-dichlorophenyloxy)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine dihydrochloride
6-(2-[(tert-Butoxycarbonyl)amino]ethyl)-4-(3,4-di-chlorophenyloxy)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine (35 mg) prepared in the step 1 was dissolved in 2 mL of dehydrated methanol, 20 equivalents of a hydrochloric acid/ethyl acetate solution was dropped thereinto and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated in vacuo to evaporate the solvent and excess hydrochloric acid. To the resulting residue was added 2 mL of diethyl ether, the mixture was stirred and the solid separated out therefrom was filtered and dried to give 8 mg of the objective compound.

reactant | 6-(2-[(tert-Butoxycarbonyl)amino]ethyl)-4-(3,4-di-chlorophenyloxy)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 35 mg | C(C)(C)(C)OC(=O)NCCN1CC2=C(C(C1)OC1=CC(=C(C=C1)Cl)Cl)C=CO2 | C20H24Cl2N2O4
reactant | hydrochloric acid ethyl acetate | 20 equivalents | Cl.C(C)(=O)OCC
solvent | methanol | 2 mL | CO | CH4O
product | 6-(2-Aminoethyl)-4-(3,4-dichlorophenyloxy)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine dihydrochloride | 8 mg | Cl.Cl.NCCN1CC2=C(C(C1)OC1=CC(=C(C=C1)Cl)Cl)C=CO2 | InChI=1S/C15H16Cl2N2O2.2ClH/c16-12-2-1-10(7-13(12)17)21-15-9-19(5-4-18)8-14-11(15)3-6-20-14;;/h1-3,6-7,15H,4-5,8-9,18H2;2*1H
